US09119868B2
A mixture of 6-(N-(4-bromo-3-fluoro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (350 mg, 0.578 mmol), DIPEA (0.303 mL, 1.734 mmol) and MOM-Cl (0.110 mL, 1.445 mmol) in THF (3.0 mL) was stirred at 50° C. in a sealed tube. After 23 hours, the solution was concentrated and purified by silica gel chromatography (0-40% EtOAc in hexanes) to give 6-(N-(4-bromo-3-fluoro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (303 mg, 70% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.59 (br. s., 1H), 0.74-0.94 (m, 2H), 0.94-1.10 (m, 1H), 1.99-2.12 (m, 1H), 3.00 (d, J=4.9 Hz, 3H), 3.27 (s, 3H), 3.37 (s, 3H), 4.61 (s, 2H), 4.71 (s, 2H), 5.85 (d, J=4.6 Hz, 1H), 7.13 (dd, J=10.0, 2.7 Hz, 1H), 7.17-7.25 (m, 2H), 7.33 (d, J=1.5 Hz, 1H), 7.48 (s, 1H), 7.58 (s, 1H), 7.83-7.92 (m, 2H). LCMS (m/z, ES+)=649, 651 (M+H+).

reactant | 6-(N-(4-bromo-3-fluoro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.578 mmol, 350 mg | BrC1=C(C=C(C=C1CO)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C27H23BrF2N2O5S
reactant | DIPEA | 1.734 mmol, 0.303 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MOM-Cl | 1.445 mmol, 0.110 mL | C(OC)Cl | C2H5ClO
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 6-(N-(4-bromo-3-fluoro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 303 mg, 70% yield | BrC1=C(C=C(C=C1COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C29H27BrF2N2O6S
